US04116956
Thus obtained 2-benzylmercapto-7-chloro-5-phenyl-3H-1,4-benzodiazepine (4 parts) is dissolved in 100 parts by volume of a mixture of methanol and tetrahydrofuran (1:1) and 10 parts by volume of hydrazine hydrate is added thereto. After being left standing overnight at room temperature, the reaction mixture is poured into water and extracted with chloroform. The chloroform layer is washed with water and dried over sodium sulfate. Evaporation of the solvent affords 7-chloro-2-hydrazino-5-phenyl-3H-1,4-benzodiazepine. Recrystallization from a mixture of chloroform and benzene gives colorless crystals. M.P. 203°-205° C (decomposition). Thus obtained product is identical with the product prepared in Examples 1 and 9.

reactant | 2-benzylmercapto-7-chloro-5-phenyl-3H-1,4-benzodiazepine | C(C1=CC=CC=C1)SC1=NC2=C(C(=NC1)C1=CC=CC=C1)C=C(C=C2)Cl | C22H17ClN2S
reactant | water | O | H2O
reactant | hydrazine hydrate | O.NN
solvent | methanol | CO | CH4O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 7-chloro-2-hydrazino-5-phenyl-3H-1,4-benzodiazepine | ClC=1C=CC2=C(C(=NCC(=N2)NN)C2=CC=CC=C2)C1 | C15H13ClN4
